US05696159
(G) 5-fluoro-2-methyl-1-(p-methylsulfonylbenzylidene)-3-indenylacetic acid
To 5-fluoro-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetic acid (12.0 g, 33.66 mmol) in 140 ml THF is added gradually at 0° C. a solution of OXONE (12.47 g, 36.72 mmol) and tetrabutylammoniumhydrogensulfate (1.0 g, 1.62 mmol) in 35 ml H2O. The temperature of the reaction mixture is maintained in the range of 13°-23° C. After 24 h at room temperature, the THF phase is separated from the water phase and is dripped into water (280 ml, 40° C.). The suspension is stirred until it reaches room temperature. The yellow crystals of 5-fluoro-2-methyl-1-(p-methylsulfonylbenzylidene)-3-indenylacetic acid are filtered off and are washed with water (30 ml). 11.3 g, 30.29 mmol, 90% mp. 204°-206° C.

reactant | 5-fluoro-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetic acid | 33.66 mmol, 12.0 g | FC=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)O | C20H17FO3S
reactant | OXONE | 36.72 mmol, 12.47 g | OOS(=O)[O-].[K+]
solvent | THF | 140 ml | C1CCOC1 | C4H8O
catalyst | tetrabutylammoniumhydrogensulfate | 1.62 mmol, 1.0 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | H2O | 35 ml | O | H2O
product | 5-fluoro-2-methyl-1-(p-methylsulfonylbenzylidene)-3-indenylacetic acid | FC=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)(=O)C)C)CC(=O)O | C20H17FO4S
